US04973697
Into 0.82 g (3.8 mmol) of sodium 2-chloropyridine-6-sulfonate prepared in accordance with Example 1, 10 ml of concentrated hydrochloric acid was added, and the mixture was stirred at room temperature overnight. Then, the solvent was distilled off, and after an addition of 200 ml of 2-propanol, the residue was heated. Insoluble matters were removed by filtration, and the filtrate was distilled under reduced pressure to obtain 710 mg (96.6%) of 2-chloropyridine-6-sulfonic acid as crystalline solid. Purification was conducted by recrystallization from 2-propanol.

reactant | sodium 2-chloropyridine-6-sulfonate | 3.8 mmol, 0.82 g | ClC1=NC(=CC=C1)S(=O)(=O)[O-].[Na+]
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 2-chloropyridine-6-sulfonic acid | 710 mg, 96.6% | ClC1=NC(=CC=C1)S(=O)(=O)O | C5H4ClNO3S
